US07199239B2
{4-[(Butyl{5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidin-4-yl}amino)methyl]-2-methylphenoxy}acetic acid
To a solution of ethyl {4-[(butyl{5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidin-4-yl}amino)methyl]-2-methylphenoxy}acetate (190 mg, 0.37 mmol) in methanol (4 mL) and tetrahydrofuran (4 mL) was added 2M sodium hydroxide (4 mL). The resulting mixture was stirred at room temperature for 2 h. The solvents were removed in vacuo and the residue was diluted with water (20 mL), acidified with 2M HCl and extracted ethyl acetate (50 mL). The organic solution was washed with brine (20 mL), dried (MgSO4) and the solvents removed in vacuo, to afford the title compound as a white foam (180 mg).

reactant | ethyl {4-[(butyl{5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidin-4-yl}amino)methyl]-2-methylphenoxy}acetate | 0.37 mmol, 190 mg | C(CCC)N(C1=NC=NC(=C1C)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C28H32F3N3O3
reactant | sodium hydroxide | 2M, 4 mL | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | {4-[(Butyl{5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidin-4-yl}amino)methyl]-2-methylphenoxy}acetic acid | 180 mg | C(CCC)N(C1=NC=NC(=C1C)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)O)C=C1)C | C26H28F3N3O3
